US06326369B1
2-[8-(4-Benzylpiperazin-1-yl)octyl]-5,6-dimethoxy-2-phenylindan-4,7-dione
To a mixture of 4-benzyl-1-[8-(4,5,6,7-tetramethoxy-2-phenylindan-2-yl)octyl]piperazine (713 mg), 2,6-pyridinedicarboxylic acid (597 mg), THF (14 ml), and water (7 ml) was dropwise added a solution of CAN (2.59 g) in water (7 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, saturated aqueous sodium bicarbonate was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate 8:1) and then with recrystallization from hexane-diethyl ether to yield the entitled compound (310 mg) as crystals.

reactant | 4-benzyl-1-[8-(4,5,6,7-tetramethoxy-2-phenylindan-2-yl)octyl]piperazine | 713 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCCCCCCCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C1=CC=CC=C1 | C38H52N2O4
reactant | 2,6-pyridinedicarboxylic acid | 597 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | CAN | 2.59 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 7 ml | O | H2O
solvent | water | 7 ml | O | H2O
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | 2-[8-(4-Benzylpiperazin-1-yl)octyl]-5,6-dimethoxy-2-phenylindan-4,7-dione | 310 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCCCCCCCC1(CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)C1=CC=CC=C1 | C36H46N2O4
